US07408065B2
b) 6-Chloro-N-(cyclohexylmethyl)-2-[(3S)-3-[(2-hydroxyethyl)amino]-1-piperidinyl]-5-quinolinecarboxamide
Prepared according to the method of example 50(b) using 6-chloro-N-(cyclohexylmethyl)-2-[(3S)-3-[[2-[[(1,1-dimethylethyl)dimethylsilyl]oxy]ethyl]amino]-1-piperidinyl]-5-quinolinecarboxamide Example 52(a)) (190 mg) and hydrochloric acid (4M in 1,4-dioxane) (2.0 mL). Purification (SiO2, dichloromethane:methanol:ammonia in methanol (7 M) 96:3:1) and subsequent recrystallisation (acetonitrile) gave the title compound as a solid (53 mg).

reactant | 6-chloro-N-(cyclohexylmethyl)-2-[(3S)-3-[[2-[[(1,1-dimethylethyl)dimethylsilyl]oxy]ethyl]amino]-1-piperidinyl]-5-quinolinecarboxamide | ClC1=C(C=2C=CC(=NC2C=C1)N1C[C@H](CCC1)NCCO[Si](C)(C)C(C)(C)C)C(=O)NCC1CCCCC1 | C30H47ClN4O2Si
reactant | hydrochloric acid | 4M, 2.0 mL | Cl | ClH
product | 6-Chloro-N-(cyclohexylmethyl)-2-[(3S)-3-[(2-hydroxyethyl)amino]-1-piperidinyl]-5-quinolinecarboxamide | 53 mg | ClC1=C(C=2C=CC(=NC2C=C1)N1C[C@H](CCC1)NCCO)C(=O)NCC1CCCCC1 | C24H33ClN4O2
